US07070868B2
Phosphorus oxychloride (37.4 mL, 402 mmol) was added to 2-hydroxy-4-phenylquinoline and the mixture was heated to reflux for 4 hours. Upon cooling to room temperature, the mixture was added slowly to stirring ice water yielding a white precipitate. The mixture was extracted with methylene chloride, and the organic phases were combined, dried with magnesium sulfate, filtered and concentrated to yield 2-chloro-4-phenylquinoline.

reactant | Phosphorus oxychloride | 402 mmol, 37.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-hydroxy-4-phenylquinoline | OC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H11NO
product | 2-chloro-4-phenylquinoline | ClC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H10ClN
